US08071595B2
To a solution of 5-(4-(benzyloxy)phenyl)-4-bromo-2,2-dimethylfuran-3(2H)-one (1.0 g, 2.67 mmol) in toluene (10 mL) were added pyridin-4-ylboronic acid (362 mg, 2.94 mmol), Cs2CO3 (4.3 g, 13.3 mmol) followed by water (5 mL) under an inert atmosphere. The reaction mixture was stirred for 15 minutes and then Pd(dppf)Cl2 (430 mg, 0.0005 mmol) was added. This mixture was refluxed for 16 h and then filtered through a pad of Celite®. The filtrate was extracted with EtOAc (2×40 mL) and the combined organic layers were washed with water, dried over Na2SO4, and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography eluting with 40% EtOAc in hexanes to afford 5-(4-(benzyloxy)phenyl)-2,2-dimethyl-4-(pyridin-4-yl) furan-3(2H)-one (620 mg, 62%).

reactant | 5-(4-(benzyloxy)phenyl)-4-bromo-2,2-dimethylfuran-3(2H)-one | 2.67 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)Br | C19H17BrO3
reactant | pyridin-4-ylboronic acid | 2.94 mmol, 362 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Cs2CO3 | 13.3 mmol, 4.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 5 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dppf)Cl2 | 0.0005 mmol, 430 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-(benzyloxy)phenyl)-2,2-dimethyl-4-(pyridin-4-yl) furan-3(2H)-one | 620 mg, 62% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC=NC=C1 | C24H21NO3
